US04788206
As in Example 134, a solution of (E)-5,5-bis(4-methoxyphenyl) -2,4-pentadienoic acid 4-nitrophenyl ester (0.24 g) and 8-isoquinolinepropanamine (0.103 g) in tetrahydrofuran (5 mL) was stirred for 17 hours at room temperature and was worked up in the usual manner. The crude amide was purified by HPLC (ethyl acetate) and then was crystallized from ethyl acetatehexane to afford 0.181 g of (E)-N-[3-(8-isoquinolinyl) propyl]-5,5-bis(4-methoxyphenyl)-2,4-pentadienamide, mp 115°-118° C.

reactant | (E)-5,5-bis(4-methoxyphenyl) -2,4-pentadienoic acid 4-nitrophenyl ester | 0.24 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C25H21NO6
reactant | 8-isoquinolinepropanamine | 0.103 g | C1=NC=CC2=CC=CC(=C12)CCCN | C12H14N2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (E)-N-[3-(8-isoquinolinyl) propyl]-5,5-bis(4-methoxyphenyl)-2,4-pentadienamide | 0.181 g | C1=NC=CC2=CC=CC(=C12)CCCNC(\C=C\C=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C31H30N2O3
